US05439925
(a) 5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl -2-naphthylacetic acid
4.68 g (18 mmol) of 5,6,7,8-tetrahydro-5,5,8,8,tetramethyl-2-naphthylglyoxylic acid and 50 ml of hydrazine hydrate are introduced into a round-bottomed flask and the mixture is heated to reflux until dissolution has taken place. At 100° C., 8 g of potassium hydroxide are added in small portions and the mixture is heated to reflux for four hours. The reaction medium is evaporated to dryness, the residue is taken up with water, the mixture is acidified to pH 1 with concentrated hydrochloric acid and extracted with ethyl ether, and the organic phase is separated after settling has taken place, then dried over magnesiumsulphate and evaporated. The residue obtained is purified by chromatography on a silica column and eluted with a mixture of dichloromethane and ethyl ether (95:5). After evaporation of the solvents, 3.8 g (86%) of 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylacetic acid, melting point 149°-150° C., are collected.

reactant | 5,6,7,8-tetrahydro-5,5,8,8,tetramethyl-2-naphthylglyoxylic acid | 18 mmol, 4.68 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(C(=O)O)=O)C | C16H20O3
reactant | potassium hydroxide | 8 g | [OH-].[K+]
solvent | hydrazine hydrate | 50 ml | O.NN
product | 5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl -2-naphthylacetic acid | CC1(C=2C=CC(=CC2C(CC1)(C)C)CC(=O)O)C | C16H22O2
